US07300934B2
To a mixture of 200 mg (1.32 mmol) methyl 4-aminobenzoate and 167 mg (1.32 mmol) 5-methyl-2-thiophenecarboxaldehyde dissolved in 8 mL dichloromethane was added 420 mg (1.98 mmol) sodium triacetoxyborohydride. The mixture was stirred at room temperature overnight, then partitioned between ethyl acetate and water, dried over magnesium sulfate and concentrated. Column chromatography, eluting with 20% ethyl acetate/hexane, provided 316 mg (1.2 mmol) of 4-[(5-Methyl-thiophen-2-ylmethyl)-amino]-benzoic acid methyl ester. This product was then dissolved in 10 mL methanol and treated with 127 mg (3.0 mmol) of lithium hydroxide dissolved in 5 mL water. The mixture was stirred at room temperature overnight, then partitioned between ethyl acetate and 1 N HCl, dried over magnesium sulfate and concentrated to provide 276 mg (92% yield) of 4-[(5-methyl-thiophen-2-ylmethyl)-amino]-benzoic acid (used in preparation of compound 64 of Table 1) as a pale yellow solid.

reactant | methyl 4-aminobenzoate | 1.32 mmol, 200 mg | NC1=CC=C(C(=O)OC)C=C1 | C8H9NO2
reactant | 5-methyl-2-thiophenecarboxaldehyde | 1.32 mmol, 167 mg | CC1=CC=C(S1)C=O | C6H6OS
reactant | sodium triacetoxyborohydride | 1.98 mmol, 420 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 8 mL | ClCCl | CH2Cl2
product | 4-[(5-Methyl-thiophen-2-ylmethyl)-amino]-benzoic acid methyl ester | 1.2 mmol, 316 mg | COC(C1=CC=C(C=C1)NCC=1SC(=CC1)C)=O | C14H15NO2S
